US04263207
Step A: 3-Hydroxymethyl-10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepine
Dissolve 5.1 gm. of 10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepin-3-carboxylic acid in 100 cc. of tetrahydrofuran and add 35 cc. of 1 M borane in tetrahydrofuran at room temperature under a nitrogen atmosphere. Stir the mixture at room temperature for 3 hours. Slowly dilute the reaction mixture with water and then with ethyl acetate. Wash with aqueous sodium chloride, dry and evaporate to an oil.

reactant | 10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepin-3-carboxylic acid | O=C1NC2=C(SC3=C1C=CC(=C3)C(=O)O)C=CC=C2 | C14H9NO3S
reactant | borane | 1 M | B | BH3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-Hydroxymethyl-10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepine | OCC1=CC2=C(C(NC3=C(S2)C=CC=C3)=O)C=C1 | C14H11NO2S
